US08530456B2
(R)-N-(2-hydroxy-1-phenylethyl)pent-4-enamide
To a solution of 4-pentenoic acid (2.55 mL, 25.0 mmol) in DMF (312 mL) cooled in an ice/water bath was added HOBt (3.37 g, 25.0 mmol) and EDC (4.79 g, 25.0 mmol) and the resulting solution was stirred for 30 min (R)-(−)-2-phenylglycinol (3.43 g, 25.0 mmol), iPr2NEt (17.8 mL, 100 mmol), and DMAP (0.305 g, 2.50 mmol) were subsequently added and the reaction mixture was stirred 16 h at which point LC-MS analysis indicated complete consumption of starting material. The reaction mixture was diluted with saturated NH4Cl and EtOAc and the layers separated. The aqueous layer was extracted 2× with EtOAc and the combined organic extracts were washed with 1 N HCl and brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified using silica gel chromatography (MeOH/CH2Cl2 gradient) to yield 3.5 g of product as a colorless oil in 64% yield. LRMS (M+H)+: 220.1.

reactant | 4-pentenoic acid | 25.0 mmol, 2.55 mL | C(CCC=C)(=O)O | C5H8O2
reactant | HOBt | 25.0 mmol, 3.37 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 25.0 mmol, 4.79 g
reactant | (R)-(−)-2-phenylglycinol | 25.0 mmol, 3.43 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | iPr2NEt | 100 mmol, 17.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 312 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 2.50 mmol, 0.305 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-N-(2-hydroxy-1-phenylethyl)pent-4-enamide | 3.5 g, 64% yield | OC[C@@H](C1=CC=CC=C1)NC(CCC=C)=O | C13H17NO2
